US07192965B2
Preparation of 3-(4-{3-[2,6-dichloro-4-(3,3-dichloroallyloxy)-phenoxy]-propoxy}-phenyl)-oxazolidin-2-one
7 mg of copper(I) iodide, 2 mg of ethylenediamine and 155 mg of tripotassium phosphate are added, under argon, to a solution of 200 mg of 1,3-dichloro-5-(3,3-dichloro-allyloxy)-2-[3-(4-iodophenoxy)-propoxy]-benzene and 38 mg of 2-oxazolidinone in 4 ml of dioxane. After 17 hours at 110° C. the reaction mixture is filtered and concentrated. Purification over silica gel yields the title compound (compound 29.3).

reactant | ethylenediamine | 2 mg | C(CN)N | C2H8N2
reactant | tripotassium phosphate | 155 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,3-dichloro-5-(3,3-dichloro-allyloxy)-2-[3-(4-iodophenoxy)-propoxy]-benzene | 200 mg | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)OCCCOC1=CC=C(C=C1)I | C18H15Cl4IO3
reactant | 2-oxazolidinone | 38 mg | O1C(NCC1)=O | C3H5NO2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 7 mg | [Cu]I
product | 3-(4-{3-[2,6-dichloro-4-(3,3-dichloroallyloxy)-phenoxy]-propoxy}-phenyl)-oxazolidin-2-one | ClC1=C(OCCCOC2=CC=C(C=C2)N2C(OCC2)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C21H19Cl4NO5
